US08232285B2
Synthesis of N-(3-amino-propyl)-N-[(R)-1-(7-chloro-4-oxo-3-phenylamino-3,4-dihydro-quinazolin-2-yl)-but-3-ynyl]-4-methyl-benzenesulfonamide (30)
A solution of 2-{3-[(R)-1-(7-chloro-4-oxo-3-phenylamino-3,4-dihydro-quinazolin-2-yl)-but-3-ynylamino]-propyl}-isoindole-1,3-dione (52.6 mg, 0.10 μmol) in pyridine (0.5 mL) was treated with respective sulfonyl chloride (in this case 4-methyl benzenesulfonyl chloride, 0.25M solution in DMA/AcCN (1:1), 0.5 mL, 0.125 μmol). The mixture was stirred at 45° C. for 24 h. Solvent was removed under reduced pressure. Residue was taken in MeOH (1.0 mL) and treated with hydrazine (0.25 mL). Reaction mixture was stirred at room temperature for 16 h and solvent removed under reduced pressure. The product was purified with reverse phase chromatography to give final product. Yield (10.4 mg, 20%). LCMS: m/e 551 [M+H].

reactant | 2-{3-[(R)-1-(7-chloro-4-oxo-3-phenylamino-3,4-dihydro-quinazolin-2-yl)-but-3-ynylamino]-propyl}-isoindole-1,3-dione | 0.10 μmol, 52.6 mg | ClC1=CC=C2C(N(C(=NC2=C1)[C@@H](CC#C)NCCCN1C(C2=CC=CC=C2C1=O)=O)NC1=CC=CC=C1)=O | C29H24ClN5O3
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 4-methyl benzenesulfonyl chloride | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | DMA AcCN | CC(=O)N(C)C.C(=O)(C)C#N
product | N-(3-amino-propyl)-N-[(R)-1-(7-chloro-4-oxo-3-phenylamino-3,4-dihydro-quinazolin-2-yl)-but-3-ynyl]-4-methyl-benzenesulfonamide | NCCCN(S(=O)(=O)C1=CC=C(C=C1)C)[C@H](CC#C)C1=NC2=CC(=CC=C2C(N1NC1=CC=CC=C1)=O)Cl | C28H28ClN5O3S
